US03971819
A. 3-nitro-4-piperidino-5-sulphamyl-benzoic acid
A mixture of 4-chloro-3-nitro-5-sulphamyl-benzoic acid (2.8 g), piperidine (3.4 g), and water (13 ml) was stirred at 95°C for 2 hours. Then the reaction mixture was adjusted to a pH of 2.5 by the addition of 4N hydrochloric acid, and the precipitated 3-nitro-4-piperidino-5-sulphamyl-benzoic acid was collected and recrystallized from aqueous methanol. The melting point was 237°-238°C (decomp.).

reactant | 4-chloro-3-nitro-5-sulphamyl-benzoic acid | 2.8 g | ClC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C7H5ClN2O6S
reactant | piperidine | 3.4 g | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | water | 13 ml | O | H2O
product | 3-nitro-4-piperidino-5-sulphamyl-benzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1N1CCCCC1)S(N)(=O)=O | C12H15N3O6S
